US07638515B2
5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one
Analogously to Example 10, the corresponding imine is produced starting from 200 mg of 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 114 mg of 5-amino-2-methyl-phthalazin-1-one. As in Example 3, 50 mg of imine is reacted by reaction with 0.23 ml of titanium tetrachloride, and 12 mg of the title compound is obtained.

reactant | 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 200 mg | FC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-2-methyl-phthalazin-1-one | 114 mg | NC1=C2C=NN(C(C2=CC=C1)=O)C | C9H9N3O
catalyst | titanium tetrachloride | 0.23 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one | 12 mg | FC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=NN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C)OC | C23H23F4N3O3
